US09450195B2
Synthesis of 5-bromo-2-(2,4-difluorophenyl)pyridine
One 1.0 L round bottom flask was charged with 2,5-dibromopyridine (10.45 g, 44.1 mmol); (2,4-difluorophenyl) boronic acid (7.66 g, 48.5 mmol); potassium carbonate (12.19 g, 88 mmole); diacetoxypalladium (0.495 g, 2.206 mmol); triphenylphosphine (1.157 g, 4.41 mmol); and acetonitrile (348 ml) and MeOH (174 ml). The reaction mixture was heated to 40° C. for 40 hours. The reaction mixture was diluted with deionized water and extracted with ethyl acetate. The organic portion was combined and subjected to column chromatography (SiO2 gel, 10% EtOAc in heptane) to yield the desired compound, 5-bromo-2-(2,4-difluorophenyl)pyridine (10 g; 84%).

reactant | 2,5-dibromopyridine | 44.1 mmol, 10.45 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | (2,4-difluorophenyl) boronic acid | 48.5 mmol, 7.66 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 88 mmole, 12.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 4.41 mmol, 1.157 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | O | H2O
catalyst | diacetoxypalladium | 2.206 mmol, 0.495 g | C(C)(=O)O[Pd]OC(C)=O
solvent | MeOH | 174 ml | CO | CH4O
solvent | acetonitrile | 348 ml | C(C)#N | C2H3N
product | 5-bromo-2-(2,4-difluorophenyl)pyridine | 10 g, 84% | BrC=1C=CC(=NC1)C1=C(C=C(C=C1)F)F | C11H6BrF2N
